US07365061B2
Part II: Trans 3-benzylamino-5-carboethoxymethoxy-2-hydroxy-1,2,3,4-tetrahydronaphthalene
To a stirring solution of trans 3-benzylamino-2,5-dihydroxy-1,2,3,4-tetrahydronaphthalene (14 g) in dry dimethylsulfoxide (150 mL) was added sodium methoxide (3.05 g). This was stirred for 10 min at room temperature, then cooled in a 10° C. bath while ethyl bromoacetate (9.1 g) was added over 3 min, during which the temperature of the mixture remained below 25° C. The cooling bath was removed, and the reaction mixture was stirred for 4.5 h at room temperature under nitrogen. Dilution with a half-saturated aqueous sodium bicarbonate solution (800 mL) was followed by extraction with diethyl ether (250 mL four times). The combined extracts were washed sequentially with cold 5% aqueous sodium hydroxide solution, water (300 mL twice), and brine and dried over anhydrous sodium sulfate. The solvent was evaporated under vacuum to provide crude product. The crude product was recrystallized from 50% ethyl acetate in hexane (100 mL) to yield the title product (13 g) as a white solid (mp 93-97° C.).

reactant | trans 3-benzylamino-2,5-dihydroxy-1,2,3,4-tetrahydronaphthalene | 14 g | C(C1=CC=CC=C1)N[C@H]1[C@@H](CC2=CC=CC(=C2C1)O)O | C17H19NO2
reactant | sodium methoxide | 3.05 g | C[O-].[Na+]
reactant | ethyl bromoacetate | 9.1 g | BrCC(=O)OCC | C4H7BrO2
solvent | dimethylsulfoxide | 150 mL | CS(=O)C | C2H6OS
product | Trans 3-benzylamino-5-carboethoxymethoxy-2-hydroxy-1,2,3,4-tetrahydronaphthalene | 13 g | C(C1=CC=CC=C1)N[C@H]1[C@@H](CC2=CC=CC(=C2C1)OCC(=O)OCC)O | C21H25NO4
